US05545669
b) 2-[2-(4-Bromophenylsulfonamido)-4-trifluoromethylphenoxy]benzoic acid
Benzhydrol 2-[2-(4-bromophenylsulfonamido)-4-trifluoromethylphenoxy]benzoate was dissolved in methylene chloride (5 mL) and stirred under argon at 0° C. Trifluoroacetic acid (5 mL) was added and the mixture was stirred in an ice bath for ten minutes. The solvents were evaporated and the residue was purified by flash chromatography (silica gel, ethyl acetate/hexane/formic acid). Recrystallization from ethyl acetate/hexane gave the title compound; mp 167°-168° C.

reactant | Benzhydrol 2-[2-(4-bromophenylsulfonamido)-4-trifluoromethylphenoxy]benzoate | C(C1=CC=CC=C1)(C1=CC=CC=C1)O.BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(OC2=C(C(=O)[O-])C=CC=C2)C=CC(=C1)C(F)(F)F
reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[2-(4-Bromophenylsulfonamido)-4-trifluoromethylphenoxy]benzoic acid | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC(=C1)C(F)(F)F | C20H13BrF3NO5S
